US06165942
Synthesis of 4-(4-chlorophenyl)-4,5-dihydro-7-trifluoromethyl -tetrazolo[1,5-a]pyrimidin-5-one (The compound No.1)
3-(4-Chlorophenyl)-3,4-dihydro-2-methanesulfonyl-6-trifluoromethylpyrimidin-4-one (1.1 g) was dissolved in a mixture of acetonitrile (20 ml) with ether (20 ml) and was added with sodium azide (0.24 g) under ice-cooled condition. The thus obtained mixture was stirred for 30 minutes at room temperature and was added with saturated brine (50 ml). The mixture was extracted with ether and then dried on anhydrous magnesium sulfate followed by distilling off the solvent under reduced pressure. The residue was purified by a preparative thin-layer plate of silica gel (developing solvent: ethyl acetate/hexane=1.5/8.5) to give the compound of interest (0.7 g) as a white solid.

reactant | 3-(4-Chlorophenyl)-3,4-dihydro-2-methanesulfonyl-6-trifluoromethylpyrimidin-4-one | 1.1 g | ClC1=CC=C(C=C1)N1C(=NC(=CC1=O)C(F)(F)F)S(=O)(=O)C | C12H8ClF3N2O3S
reactant | sodium azide | 0.24 g | [N-]=[N+]=[N-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | brine | 50 ml | [Cl-].[Na+].O
product | 4-(4-chlorophenyl)-4,5-dihydro-7-trifluoromethyl -tetrazolo[1,5-a]pyrimidin-5-one | ClC1=CC=C(C=C1)N1C=2N(C(=CC1=O)C(F)(F)F)N=NN2 | C11H5ClF3N5O
